US09024041B2
To a solution of 4-(5-amino-3-(tert-butyl)-1H-pyrazol-1-yl)-2-chlorobenzoic acid (1.15 g, 75% purity, 2.9 mmol) in THF (6.0 mL) at 0° C. under N2 was added a solution of borane in THF (1.0 M, 11.7 mL, 11.7 mmol) over 5 min and the reaction mixture warmed to RT for 6 hr. An additional aliquot of the borane solution (3.0 mL, 3.0 mmol) was added and the reaction mixture maintained at RT for a further 18 hr, then quenched by the addition of MeOH (30 mL) and after 10 min at RT was evaporated in vacuo. The residue was partitioned between DCM (20 mL) and brine (10 mL). The aq layer was separated and was extracted with DCM (10 mL) and the combined organic layers were dried and evaporated in vacuo to afford 3-(tert-butyl)-1-(3-chloro-4-(hydroxymethyl)phenyl)-1H-pyrazol-5-amine as a dark orange oil (1.15 g, 70% purity, 98%); Rt 3.92 min (Method 1 basic); m/z 280 (M+H)+, (ES+). This material was used in the subsequent step without further purification

reactant | 4-(5-amino-3-(tert-butyl)-1H-pyrazol-1-yl)-2-chlorobenzoic acid | 2.9 mmol, 1.15 g | NC1=CC(=NN1C1=CC(=C(C(=O)O)C=C1)Cl)C(C)(C)C | C14H16ClN3O2
reactant | borane | B | BH3
reactant | borane | 3.0 mmol, 3.0 mL | B | BH3
solvent | THF | 6.0 mL | C1CCOC1 | C4H8O
solvent | THF | 11.7 mmol, 1.0 M, 11.7 mL | C1CCOC1 | C4H8O
product | 3-(tert-butyl)-1-(3-chloro-4-(hydroxymethyl)phenyl)-1H-pyrazol-5-amine | C(C)(C)(C)C1=NN(C(=C1)N)C1=CC(=C(C=C1)CO)Cl | C14H18ClN3O
